US07432258B2
b) N-[1-[3′,4′-bis(methyloxy)-4-biphenylyl]-2-(1-pyrrolidinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide
To a solution of N-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide (70 mg, 0.13 mmol) and 3,4-dimethoxyphenylboronic acid (26 mg, 0.14 mmol) in DMF (1 mL) was added Pd(dppf)Cl2 (5.3 mg, 0.0065 mmol) followed by a 2M aqueous solution of Na2CO3 (0.26 mL, 0.52 mmol). The resultant mixture was stirred at 80° C. for 16 h. The mixture was filtered through a 0.45 um polypropylene filter and purified by Gilson Preparation HPLC (Xterra Prep RP, 19×150 mm, 18 mL/min, PH 10 with NH4OH, A: acetonitrile B: water, A: 40 to 99% over 15 min, UV detection at 214 nm) to give 30.1 mg (39%) of the title compound as an off white solid. MS (ES) m/e 598.1 [M+H]+.

reactant | N-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 0.13 mmol, 70 mg | BrC1=CC=C(C=C1)C(CN1CCCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C23H24BrCl2N3O3
reactant | 3,4-dimethoxyphenylboronic acid | 0.14 mmol, 26 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | Na2CO3 | 0.52 mmol, 0.26 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.0065 mmol, 5.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[1-[3′,4′-bis(methyloxy)-4-biphenylyl]-2-(1-pyrrolidinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | 30.1 mg, 39% | COC=1C=C(C=CC1OC)C1=CC=C(C=C1)C(CN1CCCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C | C31H33Cl2N3O5
